US06353006B1
3-Methyl-4-nitrophenyl isothiocyanate was reacted with 2-methyl-1-butylamine followed by chloroacetic acid according to Method C8a to afford 2-(3-methyl-4-nitrophenylimino)-3-(2-methylbutyl)-1,3-thiazolidin-4-one.

reactant | 3-Methyl-4-nitrophenyl isothiocyanate | CC=1C=C(C=CC1[N+](=O)[O-])N=C=S | C8H6N2O2S
reactant | 2-methyl-1-butylamine | CC(CN)CC | C5H13N
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
product | 2-(3-methyl-4-nitrophenylimino)-3-(2-methylbutyl)-1,3-thiazolidin-4-one | CC=1C=C(C=CC1[N+](=O)[O-])N=C1SCC(N1CC(CC)C)=O | C15H19N3O3S
